US06312867B1
In 600 ml of benzene was dissolved 155.0 g of 8-ethyltricyclo[5.2.1.02,6 ]decan-8-ol in endo-form. To the solution was added 8.2 g of p-toluenesulfonic acid monohydrate. This reaction mixture was heated, agitated under reflux for 6 hours while removing water, and subjected to conventional post-treatment. The resulting oily substance was purified by silica gel column chromatography, obtaining 105.0 g of 8-ethylidenetricyclo[5.2.1.02,6]decane. The yield was 75.3%.

reactant | 8-ethyltricyclo[5.2.1.02,6 ]decan-8-ol | 155.0 g | C(C)C1(C2C3CCCC3C(C1)C2)O | C12H20O
reactant | p-toluenesulfonic acid monohydrate | 8.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 600 ml | C1=CC=CC=C1 | C6H6
product | 8-ethylidenetricyclo[5.2.1.02,6]decane | 105.0 g, yield was 75.3% | C(C)=C1C2C3CCCC3C(C1)C2 | C12H18
